US06610688B2
Synthesis of 5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-1H-pyrrole-2-carboxylic Acid (2-Morpholin-4-yl-ethyl)-amide (Formula 15)
The title compound (16% yield) was prepared from 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide and 3-chloro-4-fluoro-phenylamine according to the procedure described for Example 12 without the conversion to HCl salt. MS 512.3 [M++1].

reactant | 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)Cl)=O | C18H19ClN6O3
reactant | 3-chloro-4-fluoro-phenylamine | ClC=1C=C(C=CC1F)N | C6H5ClFN
reactant | HCl | Cl | ClH
product | 5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-1H-pyrrole-2-carboxylic Acid (2-Morpholin-4-yl-ethyl)-amide | 16% yield | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)NC2=CC(=C(C=C2)F)Cl)=O | C24H23ClFN7O3
